US08309580B2
(3) cyclohexyl[2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophen-3-yl]methanol
To a solution of 2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophene-3-carbaldehyde (1.85 g) synthesized above in tetrahydrofuran (20 mL) was added dropwise 1.0M cyclohexylmagnesium bromide-tetrahydrofuran solution (11.6 mL) at 0° C., and the mixture was stirred for 1 hr. Saturated aqueous ammonium chloride solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane) to give the title compound (1.91 g, 76%) as a pale-yellow oil.

reactant | 2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophene-3-carbaldehyde | 1.85 g | C(C)C=1SC(=CC1C=O)C1CCSCC1 | C12H16OS2
reactant | cyclohexylmagnesium bromide tetrahydrofuran | 1.0M, 11.6 mL | C1(CCCCC1)[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | cyclohexyl[2-ethyl-5-(tetrahydro-2H-thiopyran-4-yl)thiophen-3-yl]methanol | 1.91 g, 76% | C1(CCCCC1)C(O)C1=C(SC(=C1)C1CCSCC1)CC | C18H28OS2
